US03937700
3.7 G of 1,2-methylene-17α-hydroxy-9β ,10α-pregna-4,6-diene-3,20-dione is added to a hydrogenation mixture of 370 mg of palladium on CaCO3 in 37 ml of toluene. After the absorption of the theoretical quantity of hydrogen the reaction mixture is filtered and the solvent is subsequently evaporated. The residue is recrystallized, yield 95% of pure 1,2-methylene-17α-hydroxy-9β ,10α-pregn-4-ene-3,20-dione.

reactant | 1,2-methylene-17α-hydroxy-9β ,10α-pregna-4,6-diene-3,20-dione | C1C2C1C(C=C1C=C[C@H]3[C@@H]4CC[C@](C(C)=O)([C@]4(CC[C@H]3[C@]21C)C)O)=O | C22H28O3
solvent | toluene | 37 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium | 370 mg | [Pd] | Pd
product | 1,2-methylene-17α-hydroxy-9β ,10α-pregn-4-ene-3,20-dione | yield 95% | C1C2C1C(C=C1CC[C@H]3[C@@H]4CC[C@](C(C)=O)([C@]4(CC[C@H]3[C@]21C)C)O)=O | C22H30O3
